US05459152
To a suspension of DL-penicillamine (50 g, 335 mmol) in 1:1 aqueous ethanol (500 mL) was added 3-pyridinecarboxaldehyde (36 g, 335 mmol). The resulting clear-yellow solution was stirred for 17 hours at ambient temperature during which time a white precipitate formed. The white solid was filtered off and rinsed with 3:1 H2O, ethanol and ether to give 2-(3-pyridinyl)-5,5-dimethyl-4-thiazolidinecarboxylic acid (51 g, 64%).

reactant | DL-penicillamine | 335 mmol, 50 g | NC(C(C)(C)S)C(=O)O | C5H11NO2S
reactant | 3-pyridinecarboxaldehyde | 335 mmol, 36 g | N1=CC(=CC=C1)C=O | C6H5NO
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-(3-pyridinyl)-5,5-dimethyl-4-thiazolidinecarboxylic acid | 51 g, 64% | N1=CC(=CC=C1)C1SC(C(N1)C(=O)O)(C)C | C11H14N2O2S
